US07893103B2
Preparation of (2S,4S)-1-{2-[(3R,1S)-3-(1H-1,2,4-Triazol-1-ylmethyl)cyclopentyl-N—BOC-amino]acetyl}-4-fluoropyrrolidine-2-carbonitrile
This compound was prepared from [(3R,1S)-3-(1H-1,2,4-Triazol-1-ylmethyl)cyclopentyl-N—BOC-amino]acetic acid (50 g, 154.14 mmol) and (2S,4S)-4-fluoropyrrolidine-2-carbonitrile p-toluenesulfonate (52.96 g, 184.96 mmol) as described in the preparation of its enantiomer (Method C) to give 59.9 g of the product as a white solid; 1H NMR (300 MHz, CDCl3) δ 1.22-1.36 (m, 2H), 1.44 (s, 9H), 1.62-1.81 (m, 2H), 1.88-2.04 (m, 3H), 2.22-2.27 (m, 1H), 2.34-2.49 (m, 1H), 2.62-2.77 (m, 1H), 3.69-4.01 (m, 3H), 4.13-4.23 (m, 3H), 4.99 (d, J=9.3 Hz, 1H), 5.33 (d, J=51.7 Hz, 0.3H, rotomer), 5.45 (d, J=51.0 Hz, 0.7H. rotomer), 7.92 (s, 1H), 8.08 (s, 0.4H, rotomer), 8.10 (s, 0.6H, rotomer).

reactant | [(3R,1S)-3-(1H-1,2,4-Triazol-1-ylmethyl)cyclopentyl-N—BOC-amino]acetic acid | 154.14 mmol, 50 g | N1(N=CN=C1)C[C@H]1C[C@H](CC1)N(C(=O)OC(C)(C)C)CC(=O)O | C15H24N4O4
reactant | (2S,4S)-4-fluoropyrrolidine-2-carbonitrile p-toluenesulfonate | 184.96 mmol, 52.96 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.F[C@H]1C[C@H](NC1)C#N
product | (2S,4S)-1-{2-[(3R,1S)-3-(1H-1,2,4-Triazol-1-ylmethyl)cyclopentyl-N—BOC-amino]acetyl}-4-fluoropyrrolidine-2-carbonitrile | 59.9 g | N1(N=CN=C1)C[C@H]1C[C@H](CC1)N(C(=O)OC(C)(C)C)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C20H29FN6O3
